US06444668B1
According to procedure B, (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid was coupled with 3-[3-bromo-phenyl]-[1,2,4]thiadiazole to yield 6-(1,2,4-thiadiazol-3-yl-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one as an off-white solid (0.5 g, 35%): mp 214-216° C.; 1H-NMR (DMSO-6) δ10.40 (s, 1H), 10.36 (s, 1H), 8.49 (s, 1H), 8.23 (d, 1H, J=7.7 Hz), 7.83 (d, 1H, J=7.9 Hz), 7.66-7.61 (m, 3H), 7.02 (t, 1H, J=4.4 Hz), 1.70 (s, 6H); MS ((+)APCI) [M+H]+ @ m/z 338.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 3-[3-bromo-phenyl]-[1,2,4]thiadiazole | BrC=1C=C(C=CC1)C1=NSC=N1 | C8H5BrN2S
product | 6-(1,2,4-thiadiazol-3-yl-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one | 0.5 g, 35% | S1N=C(N=C1)C1=C(C=CC=C1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C18H15N3O2S
